US05387710
A mixture of N-benzyl-3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine (68.7 g), ammonium formate (68.15 g), and 10% palladium on carbon (50% wet; 6.8 g) in ethanol (1.2 l) was refluxed for 1 hour. After cooling, the catalyst was filtered off and the solvent was removed in vacuo. To the residue, water and 28% ammonium hydroxide were added and the whole was extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to give 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine (35.8 g) as an oil.

reactant | N-benzyl-3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine | 68.7 g | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=CC(=C2)OC | C19H23NO
reactant | ammonium formate | 68.15 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 6.8 g | [Pd] | Pd
solvent | ethanol | 1.2 l | C(C)O | C2H6O
product | 3-methoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-amine | 35.8 g | COC1=CC2=C(CCCC(C2)N)C=C1 | C12H17NO
